Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Cipro
 
Attending: ___.
 
Chief Complaint:
L hip fx

 
Major Surgical or Invasive Procedure:
___ - Dr ___ - ___ treatment left 
intertrochanteric hip fracture with trochanteric fixation nail 
(TFN)

 
History of Present Illness:
___ who sustained mechanical fall yesterday while
unloading groceries, with immediate pain left hip. Denies
headstrike, LOC or pain anywhere else. Denies fevers.
 
Past Medical History:
HL, HTN, cholecystectomy, ?spine surgery, ?urinary retention

 
Social History:
___
Family History:
NC
 
Physical Exam:
afebrile, VSS
NAD, AOx3

BUE skin clean and intact
No tenderness, deformity, erythema, edema, induration or
ecchymosis
Arms and forearms are soft
No pain with passive motion
R M U ___
EPL FPL EIP EDC FDP FDI fire
2+ radial pulses

LLE with surgical wounds that are c/d/i, no erythema
appropriate TTP over surgical sites
No erythema, edema, induration or ecchymosis
Thighs and legs are soft
Saph Sural DPN SPN MPN LPN ___ FHL ___ TA PP Fire
1+ ___ and DP pulses

Contralateral extremity examined with good range of motion, 
SILT,
motors intact and no pain or edema

 
Pertinent Results:
___ 06:38PM   GLUCOSE-107* UREA N-16 CREAT-0.7 SODIUM-139 
POTASSIUM-3.3 CHLORIDE-101 TOTAL CO2-27 ANION GAP-14
___ 06:38PM   CALCIUM-8.2* PHOSPHATE-3.1 MAGNESIUM-2.0
___ 06:38PM   WBC-19.7*# RBC-3.95* HGB-10.9* HCT-34.4* 
MCV-87 MCH-27.7 MCHC-31.8 RDW-13.6
___ 06:38PM   PLT COUNT-236
___ 03:48PM   GLUCOSE-106* UREA N-16 CREAT-0.7 SODIUM-141 
POTASSIUM-3.4 CHLORIDE-99 TOTAL CO2-32 ANION GAP-13
___ 03:48PM   estGFR-Using this
___ 03:48PM   CK(CPK)-421*
___ 03:48PM   CK-MB-4
___ 03:48PM   WBC-12.1*# RBC-4.15* HGB-11.7* HCT-35.3* 
MCV-85 MCH-28.1 MCHC-33.0 RDW-13.7
___ 03:48PM   NEUTS-82.0* LYMPHS-12.0* MONOS-5.1 EOS-0.5 
BASOS-0.4
___ 03:48PM   PLT COUNT-223
___ 03:48PM   ___ PTT-24.8* ___
___ 03:45PM URINE  HOURS-RANDOM
___ 03:45PM URINE  GR HOLD-HOLD
___ 03:45PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 03:45PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 LEUK-TR
___ 03:45PM URINE  RBC-4* WBC-6* BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 03:45PM URINE  MUCOUS-RARE
 
Brief Hospital Course:
The patient was admitted to the Orthopaedic Trauma Service for 
repair of a left femur intertrochanteric fracture.  The patient 
was taken to the OR and underwent an uncomplicated left TFN.  
The patient tolerated the procedure without complications and 
was transferred to the PACU in stable condition.  Please see 
operative report for details. Post operatively pain was 
controlled with a PCA with a transition to PO pain meds once 
tolerating POs.  The patient tolerated diet advancement without 
difficulty and made steady progress with ___.

Weight bearing status: weight bearing as tolerated in left lower 
extremity.

The patient received ___ antibiotics as well as 
lovenox for DVT prophylaxis.  The incisions were clean, dry, and 
intact without evidence of erythema or drainage; and the 
extremity was NVI distally throughout.  The patient was 
discharged in stable condition with written instructions 
concerning precautionary instructions and the appropriate 
follow-up care.  The patient will be continued on chemical DVT 
prophylaxis for 4 weeks post-operatively.  All questions were 
answered prior to discharge and the patient expressed readiness 
for discharge.

 
Medications on Admission:
simvastatin 40mg qd, HCTZ 12.5mg qd, lasix (unknown dose)QOD

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
2. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 
3. Calcium Carbonate 500 mg PO TID 
4. Docusate Sodium 100 mg PO BID 
Patient may refuse.  Hold if patient has loose stools. 
5. Enoxaparin Sodium 40 mg SC DAILY Duration: 28 Days 
6. Furosemide 20 mg PO QOD 
hold if sbp<100 
7. Hydrochlorothiazide 12.5 mg PO DAILY 
8. Multivitamins 1 CAP PO DAILY 
9. OxycoDONE (Immediate Release)  2.5-5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg every four (4) hours Disp #*50 Tablet 
Refills:*0
10. Senna 2 TAB PO HS 
Patient may refuse.  Hold if patient has loose stools. 
11. Simvastatin 20 mg PO DAILY Start: In am 
12. Vitamin D 800 UNIT PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left femur intertrochanteric fracture

 
Discharge Condition:
stable
alert and oriented
ambulatory with assistance

 
Discharge Instructions:
******SIGNS OF INFECTION**********
Please return to the emergency department or notify MD if you 
should experience severe pain, increased swelling, decreased 
sensation, difficulty with movement; fevers >101.5, chills, 
redness or drainage at the incision site; chest pain, shortness 
of breath or any other concerns.
-Wound Care: You can get the wound wet/take a shower starting 
from 3 days post-op. No baths or swimming for at least 4 weeks. 
Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment. No dressing is needed 
if wound continued to be non-draining.

******WEIGHT-BEARING*******
weight bearing as tolerated in left lower extremity

******MEDICATIONS***********
- Resume your pre-hospital medications.
- You have been given medication for your pain control. Please 
do not drive, operate heavy machinery or drink alcohol when 
taking this medication. As your pain improves please decrease 
the amount of pain medication. This medication can cause 
constipation, so you should drink ___ glasses of water daily 
and take a stool softener (colace) to prevent this side effect.
-Medication refills cannot be written after 12 noon on ___.

*****ANTICOAGULATION******
- Take Lovenox for DVT prophylaxis for 4 weeks post-operatively.

******FOLLOW-UP**********
 Please have your staples removed at your rehabilitation 
facility at post-operative day 14.

Please follow up with ___ in ___ days 
post-operation for evaluation. Call ___ to schedule 
appointment upon discharge.

Please follow up with your PCP regarding this admission and any 
new medications/refills.

Physical Therapy:
weight bearing as tolerated left lower extremity
Treatments Frequency:
physical therapy
nursing
wound care
 
Followup Instructions:
___